US07192968B2
Thiazolo[5,4-c]pyridine
4-[(tert-Butoxycarbonyl)amino]-3-mercaptopyridine (33.2 g) was dissolved in formic acid (250 ml), and the solution was heated under reflux for 3 days. The reaction mixture was concentrated under reduced pressure, and a 5N aqueous solution (100 ml) of potassium hydroxide and ether were added to the residue to separate an organic layer. The organic layer was dried over anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=25:1) to obtain the title compound (9.03 g) as a colorless solid.

reactant | 4-[(tert-Butoxycarbonyl)amino]-3-mercaptopyridine | 33.2 g | C(C)(C)(C)OC(=O)NC1=C(C=NC=C1)S | C10H14N2O2S
solvent | formic acid | 250 ml | C(=O)O | CH2O2
product | Thiazolo[5,4-c]pyridine | 9.03 g | N1=CSC=2C=NC=CC21 | C6H4N2S
